US20010027196A1
2-Amino-4-furan-2-yl-6-(3-trifluoromethyl-benzylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and 3-(trifluoromethyl)benzylamine in DME. ES-MS m/e (%): 360 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 3-(trifluoromethyl)benzylamine | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(3-trifluoromethyl-benzylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1=CC(=CC=C1)C(F)(F)F | C17H12F3N5O
